US06960586B2
Production of 2-methyl-7-[(1-trityl-1H-imidazol-4-yl)carbonyl]-1,2-dihydro-3H-benzo[e]isoindol-3one
Methyl 1-bromomethyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthoate (14.0 g) was dissolved in THF (120 mL), and 40% methylamine methanol solution (60 mL) was added. The reaction mixture was stirred at room temperature for 20 hrs. and the solvent was evaporated. The residue was purified by column chromatography (carrier: silica gel, developing solvent: dichloromethane-methanol=40:1) and crystallized from ethyl acetate-diethyl ether to give the title compound (5.5 g) as colorless crystals.

reactant | Methyl 1-bromomethyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthoate | 14.0 g | BrCC1=C(C=CC2=CC(=CC=C12)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C36H27BrN2O3
reactant | methylamine methanol | 60 mL | CO.CN
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 2-methyl-7-[(1-trityl-1H-imidazol-4-yl)carbonyl]-1,2-dihydro-3H-benzo[e]isoindol-3one | 5.5 g | CN1C(C=2C=CC3=C(C2C1)C=CC(=C3)C(=O)C=3N=CN(C3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=O | C36H27N3O2
